US06284755B1
Step A: Preparation of 2-(3-methoxyphenyl)-cyclohexanone
To 1.6 M n-BuLi in hexane (12.5 mL, 20 mmol) at 0° C. was added a solution of 2,2,6,6-tetramethyl piperidine (3.4 mL, 20 mmol) in anhydrous THF (40 mL) over 5 min. Cyclohexanone (2.1 mL, 20 mmol) was added dropwise. After stirring the reaction mixture for 10 min, a further portion of 1.6M n-BuLi in hexane (12.5 mL, 20 mmol) was added, the mixture stirred for 10 min, and 2-chloroanisole (2.5 mL, 20 mmol) was added. After stirring for 30 min under Ar, the reaction mixture was quenched with H2O (300 mL) and extracted with EtOAc (150 mL). The organic layer was separated, washed with 2N HCl (100 mL), H2O (200 mL) and brine, then dried (MgSO4). Filtration and concentration gave the title compound after SiO2 chromatography (CHCl3:MeOH, 200:1).

reactant | n-BuLi | 1.6 M | [Li]CCCC
reactant | hexane | 20 mmol, 12.5 mL | CCCCCC | C6H14
reactant | 2,2,6,6-tetramethyl piperidine | 20 mmol, 3.4 mL | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | Cyclohexanone | 20 mmol, 2.1 mL | C1(CCCCC1)=O | C6H10O
reactant | n-BuLi | 1.6M | [Li]CCCC
reactant | hexane | 20 mmol, 12.5 mL | CCCCCC | C6H14
reactant | 2-chloroanisole | 20 mmol, 2.5 mL | ClC1=C(C=CC=C1)OC | C7H7ClO
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2-(3-methoxyphenyl)-cyclohexanone | COC=1C=C(C=CC1)C1C(CCCC1)=O | C13H16O2
